* F:\Dropbox\GitHub\quiz2matlab\sims\LTspice\DR01op.asc
V1 V1 0 {Vcc}
D1 V1 R1 1N4148
R1 R1 0 {R1}
.model D D
.lib C:\Users\Adriano Ruseler\Documents\LTspiceXVII\lib\cmp\standard.dio
.op
.param Vcc=25 R1=1.2k
.meas Vd param V(V1)-V(R1)
.meas Pd param Vd*I(D1)
.backanno
.end
